US07759337B2
Step 1: 1,6-dichlorophthalazine
A mixture of 6-chlorophthalazin-1 (2H)-one (10.0 g, 55.4 mmol) and phosphoryl trichloride (50.0 mL, 538 mmol, Aldrich) was heated to 105° C. for 8 h. After cooling to RT, the mixture was concentrated, re-dissolved in CH2Cl2 and neutralized with sat aq. NaHCO3. After stirring for 3 h, the organic layer was collected and the aqueous layer was extracted with CH2Cl2 (3×). The combined organics were dried over Na2SO4, filtered through a SiO2, eluting with EtOAc, and concentrated to give the title compound as a tan solid. MS (ESI, pos. ion) m/z: 199 (M+1).

reactant | 6-chlorophthalazin-1 (2H)-one | 55.4 mmol, 10.0 g | ClC=1C=C2C=NNC(C2=CC1)=O | C8H5ClN2O
reactant | phosphoryl trichloride | 538 mmol, 50.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,6-dichlorophthalazine | ClC1=NN=CC2=CC(=CC=C12)Cl | C8H4Cl2N2
